Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Vasotec
 
Attending: ___.
 
Chief Complaint:
Frequent falls, weakness
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of vascular risk
factors and four months of progressive weakness and falls, who
presents with another fall with head strike. 

Ms. ___ states she was well until four months ago, about
which time she started to have intermittent falls. Initially she
was able to get back up off the ground, but as the weeks and
months progressed, she was unable to get herself back up off the
ground. Also over this time period she noted difficulty standing
from seated position. Currently she can only stand from sitting
if she has something she can hold onto/push herself off of. She
also has had difficulty carrying things. Normally she would have
been able to carry ___ grocery bags. She started having
difficulty carrying even 1 grocery bag, and then started using
wheeled grocery cart, but still had difficulty holding onto the
cart. 

She isn't sure how/why she falls. She falls at all times of day
and in all situations. She has fallen from bed, fallen when
getting on/off a train or bus, and while just walking. At least
some falls are due to tripping. She doesn't think she loses
consciousness with the falls, but has has several recent falls
with injury.

She also had 60-70 lb weight loss ___ years ago, associated with
significant decrease in appetite. She began working with
nutritionist to treat the appetite loss, and has been able to
stabilize the weight loss and even gain back ___ lb by eating
even though she isn't hungry. 

 
Past Medical History:
1.  Obesity
2.  Seasonal allergies.
3.  Diabetes mellitus type 2 (on metformin alone with good blood 
sugar control).
3.  Hypertension.
4.  Gastroesophageal reflux disease (with good improvement on 
Pepcid).
5.  Depression.
6.  History of rectal bleeding with internal hemorrhoids noted 
on anoscopy with negative subsequent colonoscopies, the most 
recent in ___.  The patient refused further colonoscopies.

 
Social History:
___
Family History:
Father implanted with a PPM, DM and HTN. Mother with dementia

 
Physical Exam:
ADMISSION EXAM:
===============
Vitals:  T: 97.9 HR: ___ BP: ___ RR: ___ SaO2:
99-100% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Speech is fluent
with normal grammar and syntax. No paraphasic errors. 
Comprehension intact to complex, cross-body commands. Normal
prosody. 

-Cranial Nerves: PERRL 4->2. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation, though there is equivocal subtle
bifacial weakness, though evaluation is somewhat limited in that
she has difficulty giving sustained effort at forced eye 
closure,
but has bursts that she feels are full. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side. No dysarthria. 

- Motor:  Normal tone. Equivocal subtle decreased bulk bilateral
forearms. Bulk evaluation in proximal extremities limited by
adiposity. No clear distal atrophy except bilateral EDB atrophy.
No drift. No tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___        
L  5    ___  ___  4*  5    4+ 4                 
R  4+   4+  4+  ___ 4* 4   5    4  4+                 
bilateral EHD and EDB are 4
*both muscle groups are in this range, but the starred muscle
group is stronger than the contralateral side. 

-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Adductors
L  2  2    2    2   0                        
R  2  2    2    2   0                       
Plantar response was flexor bilaterally.

-Sensory: Intact to LT throughout. Hyperesthesia to cold distal
BLE. Proprioception intact to all but the smallest movements
bilateral great toes. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. Slow but intact cadence with rapid alternating
movements.

DISCHARGE EXAM:
===============
VITALS: T 98.8 BP 114/73 HR 105 RR 20 Sat 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema. She has thin extremities with central
adiposity. 
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.  

Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: She has quadriceps atrophy. Normal tone. No pronator
drift bilaterally.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5

Neck flexion and extension ___   

-Sensory: There is decreased pin prick sensation distal to the
ankles bilaterally. Vibration is 7 seconds at the toes.
Proprioception is intact at the toes. Romberg is positive, even
with eyes open and stance wide. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. There is no
truncal ataxia. 

-Gait: She is able to get herself out of bed on her own. Her 
gait
is narrow with good arm swing. She is unable to walk in tandem,
but is able to stand on one foot and places a protective foot
down when leaning on one leg. She takes a step back to protect
herself from falling with the pull test.  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:10PM URINE  HOURS-RANDOM
___ 03:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 03:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:10PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 03:10PM URINE  MUCOUS-RARE*
___ 02:05PM   GLUCOSE-89 UREA N-9 CREAT-0.8 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-26 ANION GAP-14
___ 02:05PM   estGFR-Using this
___ 02:05PM   ALT(SGPT)-9 AST(SGOT)-17 CK(CPK)-57 ALK 
PHOS-61 TOT BILI-0.4
___ 02:05PM   LIPASE-36
___ 02:05PM   cTropnT-<0.01
___ 02:05PM   ALBUMIN-4.0 CALCIUM-9.0 PHOSPHATE-3.1 
MAGNESIUM-1.6
___ 02:05PM   TSH-1.5
___ 02:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:05PM   WBC-5.4 RBC-3.86* HGB-12.0 HCT-38.0 MCV-98 
MCH-31.1 MCHC-31.6* RDW-13.0 RDWSD-46.5*
___ 02:05PM   NEUTS-45.0 ___ MONOS-8.0 EOS-5.0 
BASOS-0.2 IM ___ AbsNeut-2.43 AbsLymp-2.22 AbsMono-0.43 
AbsEos-0.27 AbsBaso-0.01
___ 02:05PM   ___ PTT-32.6 ___
___ 02:05PM   PLT COUNT-192

DISCHARGE LABS:
===============
___ 04:10AM BLOOD WBC-5.8 RBC-3.78* Hgb-11.6 Hct-37.4 
MCV-99* MCH-30.7 MCHC-31.0* RDW-12.9 RDWSD-46.0 Plt ___
___ 04:10AM BLOOD ___ PTT-31.6 ___
___ 04:10AM BLOOD Glucose-110* UreaN-10 Creat-0.9 Na-141 
K-3.6 Cl-99 HCO3-26 AnGap-16
___ 05:46AM BLOOD ALT-8 AST-15 LD(LDH)-200 AlkPhos-58 
TotBili-0.5
___ 02:05PM BLOOD Lipase-36
___ 02:05PM BLOOD cTropnT-<0.01
___ 04:10AM BLOOD Calcium-8.9 Phos-4.7* Mg-1.8
___ 11:03AM BLOOD VitB___-___*
___ 02:05PM BLOOD TSH-1.5
___ 11:03AM BLOOD Anti-Tg-LESS THAN  Thyrogl-11 
antiTPO-LESS THAN 
___ 02:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
========
CT C-Spine without contrast ___:
Assessment is somewhat limited by body habitus. 
  
Diffuse heterogeneity about the bones is likely secondary to 
bone 
demineralization.  Alignment is normal.  No fractures are 
identified.Multilevel degenerative changes are seen, most 
extensive at C3/4 through C6/7 and notable for intervertebral 
disc height loss, subchondral sclerosis and osteophytosis.  Mild 
multilevel central canal narrowing is demonstrated without 
high-grade stenosis.  Mild bilateral neural foraminal narrowing 
is seen at C4/5 and on the left at C5/6.  There is no 
prevertebral edema. 
  
The thyroid and included lung apices are unremarkable.  Pacing 
leads are 
incidentally noted within the upper left chest. 
  
IMPRESSION:  
  
No acute fracture or traumatic subluxation. 

CT Head without contrast ___:

There is no evidence of infarction, hemorrhage, edema, or mass.  
There is 
prominence of the ventricles and sulci suggestive of 
involutional changes.  An empty sella is again demonstrated.  
Mild periventricular white matter hypodensities are nonspecific, 
but likely reflect the sequela of chronic microvascular 
infarction. 
  
There is no evidence of fracture.  A left posterior ethmoid air 
cell is 
opacified, appears chronic, otherwise the visualized portion of 
the paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION:  
  
No acute intracranial abnormality. 
  
MRI C-spine with/without contrast ___:
1. Multilevel multifactorial degenerative disc disease of the 
cervical spine, most pronounced at C3-C4 through C5 C6 with mild 
to moderate spinal canal narrowing and moderate  bilateral 
neural foraminal narrowing. 
2. No evidence of cord compression or edema. 
3. No evidence of abnormal enhancement. 

CT abdomen/pelvis with contrast ___:

1.  No suspicious findings. 
  
2.   Fibroid uterus. 
  
3.   Cholelithiasis. 
  
4.   Status post Roux-en-Y with increased distension of the 
included stomach with mottled debris. 

CT chest with contrast ___:
No significant abnormality identified in the chest.

PPM INTERROGATION:
==================
1. Pacer function normal with acceptable lead measurements and 
battery status. See full report for details.
2. Programming changes: none. 
3. No episodes to explain frequent falls prior to presentation. 
Agree with on-going neurologic evaluation
4. Follow-up: Continue remote monitoring and concurrent 
appointment per Dr ___.
 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ year old woman with history of vascular risk 
factors and four months of progressive weakness and falls, who 
was admitted for workup of fall with exam notable for extremity 
weakness with preserved reflexes. She also has signs of small 
fiber neuropathy
on exam. 

There is some suspicion for inclusion body myositis given 
proximal lower extremity weakness and distal upper extremity 
weakness, although EMG was unrevealing. Nutritional deficiency 
in setting of gastric bypass, possibly multifactorial. Described 
weakness also sounds fatigeuable, with some elicited weakness 
after fatiguability of deltoids on exam, concerning for possible 
myasthenia.

Patient seen by neuromuscular team while in ___. They felt 
that there are no obvious features to suggest an extrapyramidal 
process to help explain the patient's falls. At this time the 
overall clinical picture from their perspective, including 
factors such as the
normal CK and absence of inflammatory and myopathic features on 
EMG, points away from more common forms of myopathy. While the 
possibility has been raised, a muscle biopsy is likely to be low 
yield now. While LEMS can present with proximal weakness, 
factors including the normal limb reflexes (except at the 
Achilles) and absence of accompanying autonomic symptoms make
this explanation less likely. LEMS panel will nevertheless be 
followed up by neuromuscular once she leaves the hospital. 

Plan moving forward will be to transition patient to rehab to 
improve strength, and complete remainder of workup as 
outpatient. 

We anticipate that she will require less than 30 day stay at 
rehab. 

TRANSTIIONAL ISSUES:
====================
# Follow up LEMS and myasthenia antibody panel 

# Consider TTE and sending proBNP as patient has not had cardiac 
evaluation in over ___ year and reportedly felt better after 
pacemaker was implanted, perhaps suggesting cardiac component to 
recurrent falls. 

# Consider assessing whether or not patient's symptoms are 
related to serum blood glucose levels. Even though her HgBAc is 
normal this admission, she may have daily fluctuations 
contributing to sense of imbalance. 

# Patient on metoprolol tartrate 100 mg BID. Consider switching 
to succinate formulation given BID dosing. 

# We anticipate that the patient will require less than 30 day 
stay at rehab. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Mirena (levonorgestrel) 20 mcg/24 hr ___ years) injection ONCE 

2. BusPIRone 15 mg PO BID 
3. ClonazePAM 0.5 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO THREE TIMES PER WEEK 
5. FLUoxetine 60 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Losartan Potassium 100 mg PO DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Metoprolol Tartrate 100 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Thiamine 100 mg PO WEEKLY 
12. TraZODone 75 mg PO QHS:PRN Insomnia 
13. LamoTRIgine 150 mg PO DAILY 

 
Discharge Medications:
1.  BusPIRone 15 mg PO BID  
2.  ClonazePAM 0.5 mg PO DAILY  
3.  Cyanocobalamin 1000 mcg PO THREE TIMES PER WEEK  
4.  FLUoxetine 60 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  LamoTRIgine 150 mg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Metoprolol Tartrate 100 mg PO BID  
10.  Mirena (levonorgestrel) 20 mcg/24 hr ___ years) injection 
ONCE Duration: 1 Dose  
11.  Multivitamins 1 TAB PO DAILY  
12.  Thiamine 100 mg PO WEEKLY  
13.  TraZODone 75 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Multifactorial gait disorder 
Cervical spondylosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted to the hospital because of worsening weakness 
and frequent falls over the past few months. 

While in the hospital, you had an MRI scan of your spine. This 
showed some arthritis in the upper portion of the spine in your 
neck. You also had a CT scan of your abdomen and chest - both of 
which were unrevealing. 

We think that there may be a problem with the muscles rather 
than the nerves and this is contributing to your weakness. 
Accordingly, we asked our neuromuscular team to see you. They 
reviewed your EMG and your imaging studies and felt that the 
most likely diagnosis was multifactorial gait disturbance. They 
also recommended rehabilitation for you to get stronger and work 
on your walking. 

After leaving the hospital, you will be going to a 
rehabilitation facility to help improve your strength and 
walking. 

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___